US04126585
316 gm (2moles) of 2-methyl-2-ethyl-hexanoic acid were heated to boiling with 357 gm (3 moles) of thionyl chloride under agitation until the evolution of gas had ended. The surplus thionyl chloride was distilled off and the residue was fractionated in vacuo. 320 gm (90% of theory) of 2-methyl-2-ethyl-hexanoyl chloride of b.p. 78° C. at 13 mmHg were obtained.

reactant | 2-methyl-2-ethyl-hexanoic acid | 2moles, 316 gm | CC(C(=O)O)(CCCC)CC | C9H18O2
reactant | thionyl chloride | 3 moles, 357 gm | S(=O)(Cl)Cl | Cl2OS
product | 2-methyl-2-ethyl-hexanoyl chloride | 320 gm, 90% | CC(C(=O)Cl)(CCCC)CC | C9H17ClO
